US08431706B2
8-Methoxyquinoline
Add potassium hydroxide (435 g, 7.76 mol) to a solution of 8-hydroxy quinoline (250 g, 1.724 mol) in THF (10 L) at ambient temperature and stir. Add methyl iodide (435 g, 2.58 mol) dropwise and stir overnight. Filter the reaction mixture and wash the solid with THF (2 L). Concentrate the solution to dryness; add water; extract with dichloromethane (2×3 L); combine the organic layers; and wash with brine. Collect the organic layers and dry over sodium sulfate. Remove the solids by filtration. Collect the filtrate and concentrate under reduced pressure to give a red oil, which solidifies on standing, to give the title compound (281 g, 102%), which can be used without further purification. ESI (m/z) 160(M+H).

reactant | potassium hydroxide | 7.76 mol, 435 g | [OH-].[K+]
reactant | 8-hydroxy quinoline | 1.724 mol, 250 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | methyl iodide | 2.58 mol, 435 g | CI | CH3I
solvent | THF | 10 L | C1CCOC1 | C4H8O
product | 8-Methoxyquinoline | 281 g, 102% | COC=1C=CC=C2C=CC=NC12 | C10H9NO
